* This is the FDNR
*
*   1
*   |
* ------
* ------
* ------
* ------
*   |
*   2
*
.SUBCKT fdnr 1 2
G1 1 2 1 2 Laplace=(s^2)*{D}
R1 1 2 1000Meg
.ENDS


